US05631369
Preparation of 4-(2-piperidinoethoxy)benzoic acid hydrochloride
To a 250 mL 3 neck flask equipped with mechanical stirring, condenser, and heating apparatus consisting of a RTD probe hooked via a temperature controller to a heating mantle and under nitrogen atmosphere, the following were added: 7.61 g methyl 4-hydroxybenzoate, 11.05 g β-chloroethylpiperidine hydrochloride, 16.59 g powdered potassium carbonate, and 60 mL isopropyl acetate. The mixture was heated slowly to 80° C. After 5 hours, high performance liquid chromatography showed reaction to be 90% complete. After being left overnight at 80° C., reaction was complete. The mixture was then cooled to ambient temperature, after which 60 mL deionized water was added. The mixture was stirred until all solids dissolved. The aqueous layer was separated and discarded.

reactant | methyl 4-hydroxybenzoate | 7.61 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | β-chloroethylpiperidine hydrochloride | 11.05 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl acetate | 60 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | water | O | H2O
product | 4-(2-piperidinoethoxy)benzoic acid hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
